US04311645
The 2-trans-penten-4-yn-1-ol (47.7 g) was dissolved in ether (50 ml), cooled to 0° and treated with ethyl vinyl ether (50 mL). To this solution, solid p-toluene sulfonic acid (0.1 g) was added and after a slight exothermic reaction, the mixture was stirred for a further 20 min and quenched with triethylamine (2 mL). The solvents were removed in vacuo and the residue was dissolved in ether, washed with aqueous NaHCO3 solution, dried (MgSO4) and concentrated. The residue was purified by liquid chromatography (two columns, 6:1 parts by volume hexane-ethyl acetate) and distilled, bp 88°-98° (26 mmHg) to give (E)-4-methyl-3,5-dioxa-7-decen-9-yne.

reactant | 2-trans-penten-4-yn-1-ol | 47.7 g | C(=C\CC#C)/O | C5H6O
reactant | ethyl vinyl ether | 50 mL | C(=C)OCC | C4H8O
reactant | p-toluene sulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | 50 ml | CCOCC | C4H10O
product | (E)-4-methyl-3,5-dioxa-7-decen-9-yne | CC(OCC)OC\C=C\C#C | C9H14O2
